US05260066
Ciprofloxacin HCl in Neutral PVA Hydrogel Bandage
The bandage was placed in a capped vial containing 1 ml of 0.9% NaCl in distilled water at 25° C. After 1 hr of gentle stirring, the aqueous phase was collected and the bandage was placed in a fresh 1 ml portion of 0.9% NaCl. This process was repeated for a total of 24 one hour periods. The following procedure for HPLC analysis of ciprofloxacin was essentially that of Darouiche, R. et al, [J. Inf Dis 162, 1124-1125 (1990)]. The conditions were a Whatman Partisil 50D5-3 (C8) column with a mobile phase of 25 ml 0.5M Bu4NHPO4 made up to 2.5 L with distilled water, pH adjusted to 2.34 with 85% H3PO4, which was added to 278 ml HPLC grade acetonitrile, filtered through a 0.2μ membrane and degassed. The flow rate was 1.5 ml/min at 25° C. with a 500 μl injection loop with detection at 280 nm. Under these conditions ciprofloxacin eluted as a single peak at 9 min. HPLC analysis of the 24 aqueous fractions gave the elution profile shown in Table 2. The data in Table 2 showed that 74% of the initial charge of ciprofloxacin was released in the first 4 hrs and the release of ciprofloxacin in the subsequent 5 to 24 hrs was remarkably constant. This was thought to be due to the gradual release of ciprofloxacin trapped in the cryogel matrix.

reactant | NaCl | 1 ml | [Na+].[Cl-]
reactant | ciprofloxacin | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
solvent | water | O | H2O
product | Ciprofloxacin HCl | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4.Cl | InChI=1S/C17H18FN3O3.ClH/c18-13-7-11-14(8-15(13)20-5-3-19-4-6-20)21(10-1-2-10)9-12(16(11)22)17(23)24;/h7-10,19H,1-6H2,(H,23,24);1H
